US07700786B2
Potassium carbonate (0.76 g, 5.5 mmol) and 2-bromoethyl isothiocyanate (0.83 g, 5 mmol) were added to a solution of 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole (1.39 g, 5.0 mmol) in DMF (15 ml), and the mixture was stirred at room temperature for 3 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid (30 ml) and extracted with ethyl acetate (30 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/20→1/10), to give a white solid of N-vinyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carbothioamide (0.11 g, yield: 5.0%). mp: 90-92° C.; 1H-NMR (CDCl3, TMS, ppm): δ 2.87 (d, J=0.8 Hz, 3H), 4.79 (d, J=8.6 Hz, 1H), 5.00 (dd, J=0.9 and 15.7 Hz, 1H), 6.19 (q, J=0.8 Hz, 1H), 7.45 (ddd, J=0.9, 8.6 and 15.7 Hz, 1H), 8.04 (d, J=2.1 Hz, 1H), 8.36 (m, 1H), 10.15-10.55 (m, 1H).

reactant | Potassium carbonate | 5.5 mmol, 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl isothiocyanate | 5 mmol, 0.83 g | BrCCN=C=S | C3H4BrNS
reactant | 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole | 5.0 mmol, 1.39 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=NNC(=C1)C | C10H7ClF3N3O
reactant | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-vinyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carbothioamide | 0.11 g, yield: 5.0% | C(=C)NC(=S)N1N=C(C=C1C)OC1=NC=C(C=C1Cl)C(F)(F)F | C13H10ClF3N4OS
